US05935542
Tetramethylammonium Ethyl Cyanophosphonate
Diethyl cyanophosphonate (0.50 g, 3.06 mmol) and tetramethylammonium chloride (0.338 g, 3.06 mmol) were added to dimethylacetamide (0.5 mL) which was heated to 80° C. for 3 hours. Then dimethylacetamide was removed under vacuum to give 0.45 g (70% yield) of a viscous residue which was analyzed by NMR and mass spectrometry without additional purification. 31P NMR (CD3CN) δ (ppm) major peak (87%) -22.4 (t, 3JPH =8.8 Hz), minor peaks: -13.0 to -14.0 (10%), -3.0 (3%); 1H NMR (D2O) δ (ppm) 1.30 (t), 3.20 (s), and 4.05 (qnt); 13C NMR (D2O) δ (ppm) 119.7 (d, 1JCP =175.5 Hz), 63.9 (d, 2JCP =6.3 Hz), 55.8 (t, J=4.0 Hz) 16.0 (d, 3J CP =6.87 Hz). Mass spectral analysis (FAB+, thioglycerol) detected a peak at m/z 282.3, corresponding to the complex species [[+N(CH3)4 ]2-O(OC2H5)POCN]+ !, the presence of a cation at m/z 74.1 [[N(CH3)4 ]+ ] and an anionic species (FAB- thioglycerol) at m/z 133.9 [NCP(O)(OC2H5)O- ], and to the cluster [[+N(CH3)4 ] O(OC2H5)POCN- [O(OC2H5)POCN]- at m/z 342.

reactant | Diethyl cyanophosphonate | 3.06 mmol, 0.50 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | dimethylacetamide | 0.5 mL | CC(=O)N(C)C | C4H9NO
catalyst | tetramethylammonium chloride | 3.06 mmol, 0.338 g | [Cl-].C[N+](C)(C)C
product | Tetramethylammonium Ethyl Cyanophosphonate | 0.45 g, 70% yield | C(C)OP([O-])(=O)C#N.C[N+](C)(C)C | InChI=1S/C4H12N.C3H6NO3P/c1-5(2,3)4;1-2-7-8(5,6)3-4/h1-4H3;2H2,1H3,(H,5,6)/q+1;/p-1
